US07067540B2
To a sealed tube containing 3-bromo-1-(4-chloromethylbenzyl)-4-(2,4-difluoro-benzyloxy)-1H-pyridin-2-one (0.49 g, 1.1 mmol) was added a solution of dimethylamine (5.5 mL of a 2.0 M solution in THF, 11 mmol), and the reaction mixture was stirred for 15 h. The solvent was removed under reduced pressure. Purification by flash column chromatography (silica, eluent methylene chloride to 92:7.2:0.8 methylene chloride/methanol/ammonia) provided 3-bromo-4-(2,4-difluorobenzyloxy)-1-(4-dimethylaminomethylbenzyl)-1H-pyridin-2-one as a light yellow solid (0.23 g, 46%): mp 111-113° C.; 1H NMR (500 MHz, CDCl3) δ 7.50-7.49 (m, 1H), 7.26-7.22 (m, 5H), 6.90-6.88 (m, 1H), 6.82-6.78 (m, 1H), 6.04 (d, J=6 Hz, 1H), 5.16 (s, 2H), 5.11 (s, 2H), 3.37 (s, 2H), 2.19 (s, 6H). ES HRMS m/z 463.0782 (M+H C22H22BrF2N2O2 requires 463.0827).

reactant | 3-bromo-1-(4-chloromethylbenzyl)-4-(2,4-difluoro-benzyloxy)-1H-pyridin-2-one | 1.1 mmol, 0.49 g | BrC=1C(N(C=CC1OCC1=C(C=C(C=C1)F)F)CC1=CC=C(C=C1)CCl)=O | C20H15BrClF2NO2
reactant | dimethylamine | CNC | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | 3-bromo-4-(2,4-difluorobenzyloxy)-1-(4-dimethylaminomethylbenzyl)-1H-pyridin-2-one | 0.23 g, 46% | BrC=1C(N(C=CC1OCC1=C(C=C(C=C1)F)F)CC1=CC=C(C=C1)CN(C)C)=O | C22H21BrF2N2O2
